US06864265B2
Preparation of 5-(4-Nitrophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Reaction of 4-(4-nitrophenyl)-1H-imidazole (160 mg, 0.85 mmol), NaH (60%, 33 mg, 0.82 mmol), and SEMCl (158 uL, 0.89 mmol) followed by column chromatography on silica gel (hexane/EtOAC 3:2) gave the title compound (170 mg, 65%) as a yellow solid. 1H NMR (300 MHz, CDCl3) δ0.00 (s, 9H), 0.94 (t, 2H, J=7.5 Hz), 3.55 (t, 2H, J=7.5 Hz), 5.33 (s, 2H), 7.50 (s, 1H), 7.69 (s, 1H), 7.94 (d, 2H, J=6.0 Hz), 8.26 (d, 2H, J=6.0 Hz).

reactant | 4-(4-nitrophenyl)-1H-imidazole | 0.85 mmol, 160 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=CNC1 | C9H7N3O2
reactant | NaH | 0.82 mmol, 33 mg | [H-].[Na+]
reactant | SEMCl | 0.89 mmol, 158 uL | C[Si](C)(C)CCOCCl | C6H15ClOSi
product | 5-(4-Nitrophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 170 mg, 65% | [N+](=O)([O-])C1=CC=C(C=C1)C1=CN=CN1COCC[Si](C)(C)C | C15H21N3O3Si
